US05990105
0.36 g (0.00072 mol) of tert-butyl [4-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamino]-butyl]-carbamate was dissolved in 15 ml of dioxane and treated with 5 ml of 3N aqueous HCl. After stirring at room temperature for 18 hrs. the pH was adjusted to 9, the reaction mixture was extracted with ethyl acetate and the organic phase was washed with water and sat. sodium chloride solution, dried over MgSO4 and concentrated. The residue was chromatographed on silica gel with 10% methanol in dichloromethane and then with 20% methanol in dichloromethane. After removal of the solvent from the product-containing fractions the residue was dissolved in diethyl ether and the product was precipitated by the addition of hexane. There was obtained 0.03 g (10%) of N1-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-butane-1,4-diamine as orange-red crystals. MS (ISP): me/e=401, 399 (C15H20BrN4O2S+).

reactant | tert-butyl [4-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-ylamino]-butyl]-carbamate | 0.00072 mol, 0.36 g | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCCCNC(OC(C)(C)C)=O | C20H27BrN4O4S
reactant | HCl | 3N, 5 ml | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N1-[4-(4-aminobenzenesulphonyl)-6-bromopyridin-2-yl]-butane-1,4-diamine | 0.03 g, 10% | NC1=CC=C(C=C1)S(=O)(=O)C1=CC(=NC(=C1)Br)NCCCCN | C15H19BrN4O2S
